US08211919B2
To a mixture of 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide (50.0 mg) and [(tert-butoxycarbonyl)amino]acetic acid (86.6 mg) in N,N-dimethylformamide (1.0 mL) were added diisopropylethylamine (0.189 mL) and N-[(dimethylamino) (3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)methylene]-N-methylmethanaminium hexafluorophosphate (207 mg) at ambient temperature and the mixture was stirred at the same temperature for 24 hours. Water (3.0 mL) was added to the mixture and the resulting mixture was extracted with ethyl acetate (6.0 mL). The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (10% methanol in chloroform) to afford tert-butyl{2-oxo-2-[(2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl)(phenyl)amino]ethyl}carbamate (36.5 mg) as yellow crystals.

reactant | 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide | 50.0 mg | N(C1=CC=CC=C1)CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C19H17N3O
reactant | [(tert-butoxycarbonyl)amino]acetic acid | 86.6 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | diisopropylethylamine | 0.189 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-[(dimethylamino) (3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)methylene]-N-methylmethanaminium hexafluorophosphate | 207 mg | F[P-](F)(F)(F)(F)F.CN(C)C(ON1N=NC=2C1=NC=CC2)=[N+](C)C
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | Water | 3.0 mL | O | H2O
product | tert-butyl{2-oxo-2-[(2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl)(phenyl)amino]ethyl}carbamate | 36.5 mg | C(C)(C)(C)OC(NCC(N(C1=CC=CC=C1)CC(NC1=CC=C(C=C1)C1=CC=NC=C1)=O)=O)=O | C26H28N4O4
